US08357693B2
To a suspension of tert-butyl 5-(2-(3-aminophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (100 mg, 0.22 mmol) and 4-methylpiperazine-1-carbonyl chloride hydrochloride (88 mg, 0.44 mmol,) in CH2Cl2 (2 mL) was added Et3N (92 μL, 0.66 mmol) and catalytic amount of DMAP. The reaction mixture was stirred at RT for 2 h after which 2 equivalents each of 4-methylpiperazine-1-carbonyl chloride hydrochloride and 3 equivalents of Et3N were added. Continued to stir at ambient temperature for 16 hours. The reaction was concentrated in vacuo and the residue was purified by flash chromatography on silica (8:1 CH2Cl2:MeOH). The product tert-butyl 5-(2-(3-(1-methylpiperazine-4-carboxamido)phenyl)-quinazolin-4-ylamino)-1H-indazole-1-carboxylate was isolated. (160 mg, 100%)

reactant | tert-butyl 5-(2-(3-aminophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.22 mmol, 100 mg | NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C26H24N6O2
reactant | 4-methylpiperazine-1-carbonyl chloride hydrochloride | 0.44 mmol, 88 mg | Cl.CN1CCN(CC1)C(=O)Cl
reactant | Et3N | 0.66 mmol, 92 μL | CCN(CC)CC | C6H15N
reactant | 4-methylpiperazine-1-carbonyl chloride hydrochloride | 2 equivalents | Cl.CN1CCN(CC1)C(=O)Cl
reactant | Et3N | 3 equivalents | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 5-(2-(3-(1-methylpiperazine-4-carboxamido)phenyl)-quinazolin-4-ylamino)-1H-indazole-1-carboxylate | CN1CCN(CC1)C(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C32H34N8O3
